US07399759B2
8-Methoxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 3-methoxy-2-mercaptobenzoic acid (1.84 g, 10.0 mmol), 2-cyanopyridine (1.05 g, 10.2 mmol) and pyridine (30.0 ml) was refluxed at 135° C. for 18 hrs as described in Example 9. The mixture was concentrated. The obtained crystals were recrystallized from ethanol to give the titled compound (0.75 g, 28%).

reactant | 3-methoxy-2-mercaptobenzoic acid | 10.0 mmol, 1.84 g | COC=1C(=C(C(=O)O)C=CC1)S | C8H8O3S
reactant | 2-cyanopyridine | 10.2 mmol, 1.05 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 30.0 ml | N1=CC=CC=C1 | C5H5N
product | 8-Methoxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.75 g, 28% | COC1=CC=CC=2C(N=C(SC21)C2=NC=CC=C2)=O | C14H10N2O2S
